* Active Clamp Forward Converter - Generated by OpenMagnetics
* Vin=48V, f=200kHz, D=45 pct
* Lmag=1000uH, 1 secondaries

* DC Input
Vin vin_dc 0 48

* PWM Main Switch
Vpwm pwm_ctrl 0 PULSE(0 5 0 10n 10n 2.25e-06 5e-06)
.model SW1 SW VT=2.500000 VH=0.100000 RON=0.050000
.model DIDEAL D(IS=1.000000e-12 RS=5.000000e-02)
S1 vin_dc sw_node pwm_ctrl 0 SW1

* Primary current sense
Vpri_sense sw_node pri_in 0

* Forward Transformer
Lpri pri_in 0 1.000000e-03
Lsec0 sec0_in 0 2.500000e-04
* Coupling: All windings coupled pairwise
Kpri_sec0 Lpri Lsec0 0.9999

* Active Clamp Circuit
Vpwm_clamp clamp_ctrl 0 PULSE(0 5 0.000002 10n 10n 0.000003 0.000005)
S_clamp clamp_cap sw_node clamp_ctrl 0 SW1
Cclamp clamp_cap 0 1.000000e-05 IC=39.272727
Rclamp clamp_cap 0 1MEG

* Secondary 0 output stage
Dfwd0 sec0_in sec0_rect DIDEAL
Dfw0 0 sec0_rect DIDEAL
Rsnub_fwd0 sec0_in sec0_rect 10000.000000MEG
Rsnub_fw0 0 sec0_rect 10000.000000MEG
Vsec_sense0 sec0_rect sec0_l_in 0
Lout0 sec0_l_in vout0 6.356250e-05
Cout0 vout0 0 100u IC=12.000000
Rload0 vout0 0 2.400000

* Transient Analysis
.tran 2.500000e-08 5.000000e-05 2.500000e-05

* Output signals
.save v(pri_in) i(Vpri_sense) v(vin_dc) i(Vin) v(sec0_in) i(Vsec_sense0) v(vout0)

.options RELTOL=0.001 ABSTOL=1e-9 VNTOL=1e-6 ITL1=1000 ITL4=1000
.ic v(vout0)=12.000000

.end
